data/oMe_Silver.jsonl
{"reaction_id": "NR-326_1-c1ccc(Cl)cc1_2-CCCC","level": "easy","name": "Wolff Rearrangement","reactants_smiles": ["C(c1ccc(Cl)cc1)(=O)C(=[N+]=[N-])CCCC"],"products_smiles": ["O=C=C(CCCC)c1ccc(Cl)cc1"],"conditions": "Heat, light, or metal catalyst (e.g., Ag2O)","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(Cl)cc1)(=O)[C]CCCC","step_weight": 0,"rationale": "Heating or catalysis promotes N₂ loss from the diazo group, favored by the excellent leaving ability of nitrogen and stabilization of the adjacent carbene by the carbonyl through resonance."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=C=C(CCCC)c1ccc(Cl)cc1","step_weight": 0,"rationale": "The electron-deficient carbene undergoes a 1,2-shift of c1ccc(Cl)cc1 to stabilize via ketene formation, driven by conjugation between C=C=O and relief of carbene instability."}],"description": "Under thermal, photochemical, or metal-catalyzed conditions, the α-diazoketone loses nitrogen gas to form a reactive carbene. This intermediate undergoes a 1,2-shift, driven by carbene instability and the formation of a conjugated ketene, yielding the rearranged product."}
{"reaction_id": "NR-003_1-CC_2-CCCC","name": "Acyoin Condensation","level": "medium","reactants_smiles": ["C(=O)(CC)(OCCCC)"],"products_smiles": ["O=C(CC)C(O)CC"],"conditions": "Na, then H2O workup","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "[C]([O-])(CC)(OCCCC)","step_weight": 0,"rationale": "Sodium metal donates an electron to the ester carbonyl, forming a radical anion stabilized by resonance between the carbonyl and alkoxide oxygen."},{"step": 2,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "C([O-])(CC)(OCCCC)C([O-])(CC)(OCCCC)","step_weight": 0,"rationale": "Two carbon-centered radicals couple due to high radical reactivity, forming a C–C bond between α-carbons adjacent to electron-withdrawing carbonyls."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(CC)C(=O)CC","step_weight": 0,"rationale": "Alkoxide elimination occurs as the leaving group is stabilized by resonance and sodium counterion, forming a more conjugated 1,2-diketone."},{"step": 4,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "[O-]C(CC)=C([O])CC","step_weight": 0,"rationale": "A second electron from sodium reduces one carbonyl to a radical anion, favored by the electrophilicity of the carbonyl carbon."},{"step": 5,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "[O-]C(CC)=C([O-])CC","step_weight": 0,"rationale": "Further electron transfer reduces the other carbonyl, producing a dianion stabilized by delocalization over both oxygens."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(CC)C([O-])CC","step_weight": 0,"rationale": "Proton transfer from solvent or protic impurities protonates one alkoxide, driven by the high basicity of the oxygen anion."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(CC)C(O)CC","step_weight": 0,"rationale": "Final protonation during aqueous workup yields the neutral α-hydroxyketone, favored by the stability of the carbonyl and alcohol functionalities."}],"description": "In the acyloin condensation, sodium donates electrons to ester carbonyls, generating radical anions that couple to form a 1,2-diketone intermediate. Subsequent electron transfers and protonations under reductive conditions yield the α-hydroxyketone product after aqueous workup."}
